US05292760
A stirred, chilled (-10° C.) solution of 19.3 g of N-[(2-methyl)phenyl]-2,2-dimethylpropanamide in 150 ml of tetrahydrofuran was treated over 43 min with 140 ml of a 1.6M solution of n-butyllithium in hexane, while maintaining the temperature at or below 0° C. Stirring for 2.3 hours with cooling afforded a suspension. The stirred, cooled (-6° C.) suspension was treated over 13 min with a solution of 15.02 g of N-(2-thienylmethylene)methanamine in 30 ml of toluene. The reaction mixture was stirred with cooling (1° C.) for 1.5 hours, quenched by the addition of 120 ml of water and concentrated. The concentrate was extracted with dichloromethane (2×200 ml), and the combined extract was dried over anhydrous sodium sulfate, filtered, and evaporated to an oil. Preliminary purification of the oil was achieved by preparative high pressure liquid chromatography (hereinafter "HPLC") separations utilizing a Water's Model 500A High Pressure Liquid Chromatograph (silica gel; eluting with 10% methanol in ethyl acetate). The appropriate fractions from each separation were combined and concentrated to an oil. The purification procedure was repeated utilizing 5% methanol in ethyl acetate as the eluent to yield 11.71 g of N-[2-[2-methylamino-2-(2-thienyl)ethyl]phenyl]-2,2-dimethylpropanamide as a solid, mp 78.5°-82° C.

reactant | N-[(2-methyl)phenyl]-2,2-dimethylpropanamide | 19.3 g | CC1=C(C=CC=C1)NC(C(C)(C)C)=O | C12H17NO
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-(2-thienylmethylene)methanamine | 15.02 g | S1C(=CC=C1)C=NC | C6H7NS
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-[2-methylamino-2-(2-thienyl)ethyl]phenyl]-2,2-dimethylpropanamide | 11.71 g | CNC(CC1=C(C=CC=C1)NC(C(C)(C)C)=O)C=1SC=CC1 | C18H24N2OS
